US04839355
To a mixture of 14.08 g ethyl (S)-10-bromo-8,9-difluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylate, 10.91 g 2,6-dimethyl-4-trimethylstannylpyridine and 6.3 ml hexamethylphosphoramide in 200 ml dioxane under nitrogen was added 1.27 g dichlorobis(triphenylphosphine)palladium. The reaction mixture was heated at reflux for 24 hrs. Most of the solvent was then removed in vacuo and the residue was extracted with ethyl acetate and water, and then with chloroform. The organic extracts were combined and concentrated. The residue was chromatographed on silica gel using as eluant chloroform and chloroform containing increasing amounts of methanol (1-3%). There was thereby obtained 2.5 g pure ethyl (S)-10-(2,6-dimethyl-4-pyridinyl)-8,9-difluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylate, light yellow solid, m.p. 295°-297° C., [α]D25 =-34.4° (1% in chloroform).

reactant | ethyl (S)-10-bromo-8,9-difluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylate | 14.08 g | BrC=1C(=C(C2=C3N([C@H](COC31)C)C=C(C2=O)C(=O)OCC)F)F | C15H12BrF2NO4
reactant | 2,6-dimethyl-4-trimethylstannylpyridine | 10.91 g | CC1=NC(=CC(=C1)[Sn](C)(C)C)C
reactant | hexamethylphosphoramide | 6.3 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium | 1.27 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | ethyl (S)-10-(2,6-dimethyl-4-pyridinyl)-8,9-difluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylate | 2.5 g | CC1=NC(=CC(=C1)C=1C(=C(C2=C3N([C@H](COC31)C)C=C(C2=O)C(=O)OCC)F)F)C | C22H20F2N2O4
